US05100913
VIII c) Preparation of O-[4-((4-cyanophenyl)sulfonyl)phenyl] dimethylthiocarbamate
2.36 g (0.0097 mol) of 4-[(4-hydroxyphenyl)sulfonyl]benzonitrile are added to a solution of 570 mg of potassium hydroxide in 35 ml of water. The solution is kept at room temperature for 15 minutes. After cooling to 0° C., a solution of 1.38 g of N,N-dimethylthiocarbamoyl chloride in 35 ml of acetone is added dropwise. After 4 hours, the reaction mixture is hydrolyzed in a 1 N solution of hydrochloric acid. The solution is extracted with ethyl acetate. The organic phase is washed with water until the pH of the washings is neutral, dried over magnesium sulfate and concentrated to dryness. 3 g (yield: 100%) of the expected product are thus obtained.

reactant | 4-[(4-hydroxyphenyl)sulfonyl]benzonitrile | 0.0097 mol, 2.36 g | OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C#N)C=C1 | C13H9NO3S
reactant | potassium hydroxide | 570 mg | [OH-].[K+]
reactant | N,N-dimethylthiocarbamoyl chloride | 1.38 g | CN(C(=S)Cl)C | C3H6ClNS
reactant | hydrochloric acid | Cl | ClH
solvent | water | 35 ml | O | H2O
solvent | acetone | 35 ml | CC(=O)C | C3H6O
product | O-[4-((4-cyanophenyl)sulfonyl)phenyl] dimethylthiocarbamate | 3 g, yield: 100% | CN(C(OC1=CC=C(C=C1)S(=O)(=O)C1=CC=C(C=C1)C#N)=S)C | C16H14N2O3S2
